US05569653
Ethyl 3-[4-(6-Fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]propionate hydrochloride
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole (6.0 g, 25 mmol), ethyl 3-bromopropionate (4.5 g, 25 mmol), K2CO3 (3.5 g) and CH3CN (100 ml) was stirred and refluxed for 16 hours. The reaction was poured into H2O, and after extractive workup with EtOAc, 6.0 g of an orange oil was realized. The oil was dissolved in Et2O and ethereal HCl was added to precipitate 6.3 g of a white hydrochloride salt. The salt was recrystallized from CH3CN to yield 6.0 g (64%) of the desired compound. An analytical sample was obtained by recrystallization of a 1.0 g sample from EtOH-Et2O to yield 0.8 g of a white solid, m.p.=197°-199° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole | 25 mmol, 6.0 g | FC1=CC2=C(C(=NS2)C2CCNCC2)C=C1 | C12H13FN2S
reactant | ethyl 3-bromopropionate | 25 mmol, 4.5 g | BrCCC(=O)OCC | C5H9BrO2
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | Ethyl 3-[4-(6-Fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]propionate hydrochloride | 6.0 g, 64% | Cl.FC1=CC2=C(C(=NS2)C2CCN(CC2)CCC(=O)OCC)C=C1 | InChI=1S/C17H21FN2O2S.ClH/c1-2-22-16(21)7-10-20-8-5-12(6-9-20)17-14-4-3-13(18)11-15(14)23-19-17;/h3-4,11-12H,2,5-10H2,1H3;1H
